US08563742B2
1-Spiro[4.5]dec-8-yl-ethanone (120 mg, 0.66 mmol) was treated with pyrrolidone hydrotribromide (360 mg, 0.72 mmol) in methanol (3 mL) following a method analogous to General Procedure B1 to produce 2-bromo-1-spiro[4.5]dec-8-yl-ethanone (120 mg). This bromo ketone was used without further purification. It was treated with 3-[1-(5-methyl-thiophen-2-ylmethyl)-thioureido]-propionic acid tert-butyl ester (158 mg, 0.5 mmol) following a method analogous to General Procedure C to afford 3-[(5-methyl-thiophen-2-ylmethyl)-(4-spiro[4.5]dec-8-yl-thiazol-2-yl)-amino]-propionic acid tert-butyl ester after workup and purification (30 mg).

reactant | 1-Spiro[4.5]dec-8-yl-ethanone | 0.66 mmol, 120 mg | C1CCCC12CCC(CC2)C(C)=O | C12H20O
reactant | pyrrolidone hydrotribromide | 0.72 mmol, 360 mg | C1CC(=O)NC1.Br[Br-]Br
solvent | methanol | 3 mL | CO | CH4O
product | 2-bromo-1-spiro[4.5]dec-8-yl-ethanone | 120 mg | BrCC(=O)C1CCC2(CCCC2)CC1 | C12H19BrO
